US06936612B2
8-cyclopentyl-5-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (138 mg, 0.40 mmol) was dissolved in CH2Cl2 (6 mL) and 2-benzenesulfonyl-3-phenyl-oxaziridine (155 mg, 0.6 mmol) was added. The reaction mixture was stirred at room temperature for 18 hours then the solvent was removed under reduced pressure and the remaining residue was purified by prepative TLC (50% ethyl acetate/hexane). The more polar, product-containing, reaction was extracted into CH2Cl2 and the solvent evaporated to provide 8-cyclopentyl-2-methanesulfinyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester as a white solid (110 mg, 75.7%). M++1: Calc'd. 364.4. Found 364.2.

reactant | 8-cyclopentyl-5-methyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.40 mmol, 138 mg | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)SC)N(C1=O)C1CCCC1)C | C17H21N3O3S
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 0.6 mmol, 155 mg | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 8-cyclopentyl-2-methanesulfinyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 110 mg, 75.7% | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1)C | C17H21N3O4S
